US04797399
A mixture of 5-chloro-3-{[4-[N-(p-nitrobenzyloxycarbonyl)acetimidoylamino]-1-piperazinyl]carbonylmethyl}-2-benzothiazolinone (2.0 g), acetic acid (0.3 ml), water (3 ml), 10% palladium on carbon (2.0 g) in tetrahydrofuran (40 ml) and methanol (20 ml) was incubated under an atmosphere of hydrogen for 3 hours. Palladium on carbon was filtered off, and the filtrate was coevaporated with ethanol. The residue obtained was purified by aluminum column chromatography, treated with hydrogen chloride in ethanol, and recrystallized from a mixture of water, ethanol and ether to give yellow crystals of 5-chloro-3-[(4-acetimidoylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride (0.3 g).

reactant | 5-chloro-3-{[4-[N-(p-nitrobenzyloxycarbonyl)acetimidoylamino]-1-piperazinyl]carbonylmethyl}-2-benzothiazolinone | 2.0 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)NC(CC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=N)C1 | C23H23ClN6O6S
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | water | 3 ml | O | H2O
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | 5-chloro-3-[(4-acetimidoylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride | 0.3 g | Cl.ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)NC(C)=N)C1 | InChI=1S/C15H18ClN5O2S.ClH/c1-10(17)18-20-6-4-19(5-7-20)14(22)9-21-12-8-11(16)2-3-13(12)24-15(21)23;/h2-3,8H,4-7,9H2,1H3,(H2,17,18);1H
